US03987051
5-(3-Chlorobenzoyl)-1-(2-furanylmethyl)-4-methoxy-6-methyl-1H-pyrazolo[3,4-b]pyridine is treated with concentrated phosphoric acid according to the procedure of Example 1d to obtain 5-(3-chlorobenzoyl)-4-methoxy-6-methyl-1H-pyrazolo-[3,4-b]pyridine.

reactant | 5-(3-Chlorobenzoyl)-1-(2-furanylmethyl)-4-methoxy-6-methyl-1H-pyrazolo[3,4-b]pyridine | ClC=1C=C(C(=O)C=2C(=C3C(=NC2C)N(N=C3)CC=3OC=CC3)OC)C=CC1 | C20H16ClN3O3
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | 5-(3-chlorobenzoyl)-4-methoxy-6-methyl-1H-pyrazolo-[3,4-b]pyridine | ClC=1C=C(C(=O)C=2C(=C3C(=NC2C)NN=C3)OC)C=CC1 | C15H12ClN3O2
